data/mechanisms/records/IMS8-EQ8.1b.json
{"mechanism_id": "IMS8-EQ8.1b", "species": [{"species_id": "pent_2_ene_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][CH:3][CH+:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methallyl_cation", "mapped_smiles": "[CH2:2]=[CH:3][CH+:4][CH3:5]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["pent_2_ene_radical_cation"]}, {"state_id": "state_products", "species_ids": ["methallyl_cation", "methyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 137, "equation": "8.1", "section": "8.1 Unimolecular ion decompositions"}, "confidence": 0.85, "curator_note": "Eq 8.1, top pathway: the pent-2-ene molecular ion (top structure, dHf/IE 8.7(9.0)) fragments by the arrow labeled 'alpha' (rate 1.0) to give the neutral methyl radical H3C. (dHf 1.5) plus the C4H7+ cation drawn as CH2=CH-CH(+)-CH3 (the 1-methylallyl / but-3-en-2-yl cation, (60%), dHf/IE 8.8(7.5)). This is allylic (alpha) cleavage: the C-C bond one removed from the ring double bond breaks, ejecting the ethyl-end methyl and leaving a resonance-stabilized allyl cation. Book draws 0 curved arcs on this page (energetics scheme). All 3 fishhooks are reconstructed for balance: (1) the odd electron on C3 forms the new C2=C3 pi bond, (2) one electron of the breaking C1-C2 sigma bond also forms that pi bond, (3) the other electron of C1-C2 departs with C1 as the methyl radical. LOCALIZATION (convention C): the page draws pent-2-ene as an intact alkene with a delocalized (+.); encoded as the opened distonic form (odd electron on C3, charge on C4) so the arrows have a real origin. The product 1-methylallyl cation is drawn by McLafferty exactly in this Kekule form (CH2=CH-CH(+)-CH3), one of its two resonance structures (partner +CH2-CH=CH-CH3)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 70.0777, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_C4H7", "species_id": "methallyl_cation", "step_id": "step_alpha_cleavage", "observed_mz": 55.0542, "relative_intensity": 0.6, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
